US07405300B2
2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde is reacted with imidazole as described in Example 1 to afford 2-imidazol-1-yl-1-phenyl-1H-indole-3-carboxaldehyde (12% yield) as a white solid. LC/MS: 288 (M+H); RT 2.55 min; NMR (CDCl3): 9.94 (1H, s), 8.45 (1H, d), 7.63 (1H, s), 7.35-7.54 (6H, m), 7.17-7.29 (2H, m), 7.12 (1H, s), 7.03 (1H, s).

reactant | 2-Chloro-1-phenyl-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C15H10ClNO
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | 2-imidazol-1-yl-1-phenyl-1H-indole-3-carboxaldehyde | 12% yield | N1(C=NC=C1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=CC=C1 | C18H13N3O
